US09388192B2
2,5,6-tribromo-1-ethyl-4-nitro-1H-1,3-benzodiazole (100 mg, 0.23 mmol) and 2-piperazinone (117 mg, 1.17 mmol) were dissolved in EtOH (3.0 ml). The resulting mixture was stirred at temperature 170° C. under microwave conditions until the reaction was complete (20 min) by LC/MS. The mixture was allowed to cool to RT and concentrated in-vacuo. The product was filtered off, washed with EtOH and dried to afford-(5,6-dibromo-1-ethyl-4-nitro-1H-1,3-benzodiazol-2-yl)piperazin-2-one (97 mg, 0.22 mmol); m/z 462.9; rt 3.1 min.

reactant | 2,5,6-tribromo-1-ethyl-4-nitro-1H-1,3-benzodiazole | 0.23 mmol, 100 mg | BrC1=NC2=C(N1CC)C=C(C(=C2[N+](=O)[O-])Br)Br | C9H6Br3N3O2
reactant | 2-piperazinone | 1.17 mmol, 117 mg | N1C(CNCC1)=O | C4H8N2O
solvent | EtOH | 3.0 ml | CCO | C2H6O
product | (5,6-dibromo-1-ethyl-4-nitro-1H-1,3-benzodiazol-2-yl)piperazin-2-one | 0.22 mmol, 97 mg | BrC1=C(C2=C(N(C(=N2)N2C(CNCC2)=O)CC)C=C1Br)[N+](=O)[O-] | C13H13Br2N5O3
